US06982348B2
1) ethyl 3-(3-chlorophenyl)-3-oxopropanoate
To a solution of 3-chloroacetophenone (23.9 g, 154 mmol) in diethyl carbonate (150 ml) was added ethanol (0.3 ml), and sodium hydride (60% in oil, 12.4 g, 309 mmol) was added under ice-cooling. The mixture was stirred at room temperature for 2 hrs. To the reaction solution was added 6N hydrochloric acid to stop the reaction, and water (500 ml) was added. Then, the mixture was extracted with ethyl acetate (500 ml×2). The extract was washed successively with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=50:1-5:1) to give the objective substance (24.8 g, 71%).

reactant | 3-chloroacetophenone | 154 mmol, 23.9 g | CC(=O)C1=CC(=CC=C1)Cl | C8H7ClO
reactant | ethanol | 0.3 ml | C(C)O | C2H6O
reactant | sodium hydride | 309 mmol, 12.4 g | [H-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | diethyl carbonate | 150 ml | C(OCC)(OCC)=O | C5H10O3
solvent | water | 500 ml | O | H2O
product | ethyl 3-(3-chlorophenyl)-3-oxopropanoate | ClC=1C=C(C=CC1)C(CC(=O)OCC)=O | C11H11ClO3
